US08242133B2
A mixture of 0.62 g of 3-ethyl isonicotinic acid 4 ml of thionyl chloride was heated to reflux for 2.5 hours. The reaction mixture was cooled to room temperature, the reaction mixture was concentrated under reduced pressure to give 3-ethyl isonicotinic acid chloride. A mixture of the resultant 3-ethyl isonicotinic acid chloride and 3 ml of DMF was added dropwise to a mixture of 0.87 g of 2-amino-5-chloro-4-trifluoromethylphenol, 0.83 g of triethylamine and 3 ml of DMF while ice-cooling. The reaction mixture was stirred at room temperature for two hours, and then water was added to the reaction mixture, followed by extraction with ethyl acetate twice. The combined organic layers were washed with water and a saturated sodium chloride solution, dried over anhydrous magnesium sulfate, and then concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to give 0.23 g of N-[4-chloro-2-hydroxy-5-(trifluoromethyl)phenyl]-3-ethyl isonicotinamide.

reactant | 3-ethyl isonicotinic acid | 4 ml, 0.62 g | C(C)C1=C(C(=O)O)C=CN=C1 | C8H9NO2
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 3-ethyl isonicotinic acid chloride | C(C)C1=C(C(=O)Cl)C=CN=C1 | C8H8ClNO
